US08614327B2
To a stirring solution of 2-cyclohexylphenol (26.0 g, 146.8 mmol) in glacial acetic acid (100 mL) was added HBr in acetic acid (150 mL of 33% w/w,) and H2O (52 mL), followed by the dropwise addition of DMSO (100 mL) over 10 min. The reaction was then carefully quenched with saturated NaHCO3 and concentrated in vacuo. The residue was brought up in ether (400 mL), washed with water (2×100 mL) and brine (1×100 mL), and dried over anhydrous Na2SO4, filtered and concentration to yield a crude oil that was purified by silica gel column chromatography, using 15-30% EtOAc/hexane gradient to yield 4-bromo-2-cyclohexyl-phenol (35.0 g, 93%)

reactant | 2-cyclohexylphenol | 146.8 mmol, 26.0 g | C1(CCCCC1)C1=C(C=CC=C1)O | C12H16O
reactant | HBr | Br | BrH
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 52 mL | O | H2O
product | 4-bromo-2-cyclohexyl-phenol | 35.0 g, 93% | BrC1=CC(=C(C=C1)O)C1CCCCC1 | C12H15BrO
